US07585880B2
2-fluoro-3-{4-[(4-{[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}propanoic acid
A mixture of ethyl 2-fluoro-3-{4-[(4-{[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}-propanoate (740 mg, 1.31 mmol), tetrahydrofuran (15 mL), methanol (10 mL), water (10 mL) and lithium hydroxide monohydrate (165 mg, 3.92 mmol) was stirred at room temperature for 3 hr. The reaction mixture was neutralized with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was recrystallized from hexane-diisopropyl ether to give the title compound (505 mg, yield 68%) as colorless crystals.

reactant | ethyl 2-fluoro-3-{4-[(4-{[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}-propanoate | 1.31 mmol, 740 mg | FC(C(=O)OCC)CC1=CC=C(C=C1)OCC1=CC=C(C=C1)CN(C=1SC=C(N1)C1=CC=CC=C1)CCC1=CC=CC=C1 | C36H35FN2O3S
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 3.92 mmol, 165 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 2-fluoro-3-{4-[(4-{[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}propanoic acid | 505 mg, yield 68% | FC(C(=O)O)CC1=CC=C(C=C1)OCC1=CC=C(C=C1)CN(C=1SC=C(N1)C1=CC=CC=C1)CCC1=CC=CC=C1 | C34H31FN2O3S
